US05173485
To acetic anhydride (0.153 ml) was added formic acid (0.077 ml) at 15-20° C. The mixture was stirred at ambient temperature for 30 minutes. To this solution was added 4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (100 mg) under ice-cooling and the mixture was stirred at the same temperature for 1 hour. The reaction mixture was added to a mixture of dichloromethane and aqueous sodium bicarbonate solution. The separated organic layer was dried over magnesium sulfate and evaporated in vacuo to give 4-formyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (79.9 mg).

reactant | acetic anhydride | 0.153 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 0.077 ml | C(=O)O | CH2O2
reactant | 4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 100 mg | N1=CC=C2N1CCCN2 | C6H9N3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-formyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 79.9 mg | C(=O)N1C=2N(CCC1)N=CC2 | C7H9N3O
